US07838675B2
N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-{[(1S,2R)-2,3-dihydroxy-1-methylpropyl]oxy}-4-pyrimidinyl]-1-azetidinesulfonamide
To a solution of N-(2-[(2,3-difluorobenzyl)thio]-6-{(1S)-1-[(2R)-1,4-dioxaspiro[4.5]dec-2-yl]ethoxy}pyrimidin-4-yl)azetidine-1-sulfonamide (the product of step ii) (43 mg) in DCM (4 ml) was added iron (III) chloride hexahydrate (73 mg). The reaction mixture was stirred at room temperature for 2 h after which time further iron (III) chloride hexahydrate (40 mg) was added. After 3 d at −18° C., H2O and DCM were added. The layers were separated and the aqueous material extracted with further DCM. The combined organic extracts were washed with saturated aqueous sodium chloride, dried with sodium sulfate, filtered and evaporated. TFA (1 ml) and DCM (4 ml) were added to the residue and the reaction mixture stirred at room temperature for 2 d. The mixture was partitioned between saturated aqueous sodium bicarbonate and DCM, then neutralised with 2M aqueous hydrochloric acid, the layers separated and the aqueous material extracted with further DCM. The DCM extracts were allowed to slowly evaporate and the resulting solid washed with minimal cold DCM to afford the title compound as a white powder. Yield: 11 mg

reactant | N-(2-[(2,3-difluorobenzyl)thio]-6-{(1S)-1-[(2R)-1,4-dioxaspiro[4.5]dec-2-yl]ethoxy}pyrimidin-4-yl)azetidine-1-sulfonamide | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCC2)O[C@@H](C)[C@@H]2OC3(OC2)CCCCC3)C=CC=C1F | C24H30F2N4O5S2
reactant | H2O | O | H2O
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
catalyst | iron (III) chloride hexahydrate | 73 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
catalyst | iron (III) chloride hexahydrate | 40 mg | O.O.O.O.O.O.[Fe](Cl)(Cl)Cl
product | N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-{[(1S,2R)-2,3-dihydroxy-1-methylpropyl]oxy}-4-pyrimidinyl]-1-azetidinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCC1)O[C@H]([C@@H](CO)O)C | C18H22F2N4O5S2
